US05624942
Synthesis of 2-(2-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine (I-3)
To a solution containing meta-trifluoromethylphenol (3.62 g, 0.0045×5.0 mol), sodium hydride (0.36 g, (Ca.60% in mineral oil), 0.0045×2.0 mol) and CuI (0.42 g, 0.0045×0.5 mol) in dimethylformamide, 2-chloro-6-(2-thienylmethyloxy)pyridine (1.0 g, 0.0045 mol) was added and the resultant solution was refluxed for about 3 hours. Additional sodium hydride (0.36 g, (60% in mineral oil), 0.0045×2.0 mol) was added thereto and the resultant solution was refluxed for another about 1 hour, thereafter the reaction solution was partitioned between ethyl acetate and aqueous saturated sodium hydrogen carbonate. The obtained organic layer was washed with aqueous saturated sodium chloride, dried over anhydrous sodium sulfate and thereafter, concentrated and purified on a silica gel column to obtain the end product.

reactant | meta-trifluoromethylphenol | 5.0 mol, 3.62 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | sodium hydride | 2.0 mol, 0.36 g | [H-].[Na+]
reactant | 2-chloro-6-(2-thienylmethyloxy)pyridine | 0.0045 mol, 1.0 g | ClC1=NC(=CC=C1)OCC=1SC=CC1 | C10H8ClNOS
reactant | sodium hydride | 2.0 mol, 0.36 g | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
catalyst | CuI | 0.5 mol, 0.42 g | [Cu]I
product | 2-(2-thienylmethyloxy)-6-(meta-trifluoromethylphenoxy)pyridine | S1C(=CC=C1)COC1=NC(=CC=C1)OC1=CC(=CC=C1)C(F)(F)F | C17H12F3NO2S
